US09428510B2
85 mg (0.982 mmol) of manganese dioxide is added at room temperature to a solution of (4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)phenyl)methano 1 (100 mg, 0.327 mmol) in a mixture of ethyl acetate (10 ml) and dichloromethane (9 ml). The reaction mixture is placed in an ultrasonic bath for 5 hours. The reaction mixture is filtered, the solvents are evaporated and the crude product is purified by chromatography to yield 50.0 mg (yield=50.3%) of (4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzaldehyde in the form of a white solid.

reactant | (4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)phenyl)methano 1 | 0.327 mmol, 100 mg | CN1CCN(CC1)C1=CC(=C(C=C1)CO)NC1CCOCC1 | C17H27N3O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 0.982 mmol, 85 mg | [O-2].[O-2].[Mn+4]
product | 4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzaldehyde | yield=50.3% | CN1CCN(CC1)C1=CC(=C(C=O)C=C1)NC1CCOCC1 | C17H25N3O2
